US06756378B2
To a stirred solution of methyl 2-hydroxypyridine-5-carboxylate (269.8 mg, 1.762 mmol), N-tert-butoxycarbonylprolinol (354.6 mg, 1.762 mmol), and Ph3P (554.6 mg, 2.114 mmol) in THF (10 mL) was slowly added DIAD (0.42 mL, 2.114 mmol) at room temp, and the resulting mixture was stirred for 6 hr at 70° C. The reaction mixture was concentrated and the residue was chromatographed on silica-gel with n-hexane:EtOAc (5:1, v/v) as eluent to give 262.5 mg (44%) methyl 2-[[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy]pyridine-5-carboxylate as an oil. 1H-NMR (400 MHz, CDCl3) δ1.47 (s, 9H), 1.85-1.98 (m, 4H), 3.37 (br s, 2H), 3.92 (s, 3H), 4.12-4.33 (br m, 2H), 4.4 (brs, 1H), 6.75 (m, 1H), 8.15 (m, 1H), 8.79 (m, 1H); MS (FAB) m/z 337 (M++1).

reactant | methyl 2-hydroxypyridine-5-carboxylate | 1.762 mmol, 269.8 mg | OC1=NC=C(C=C1)C(=O)OC | C7H7NO3
reactant | N-tert-butoxycarbonylprolinol | 1.762 mmol, 354.6 mg | C(C)(C)(C)OC(=O)N1[C@H](CO)CCC1 | C10H19NO3
reactant | Ph3P | 2.114 mmol, 554.6 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 2.114 mmol, 0.42 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 2-[[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy]pyridine-5-carboxylate | 262.5 mg, 44% | C(C)(C)(C)OC(=O)N1C(CCC1)COC1=NC=C(C=C1)C(=O)OC | C17H24N2O5
